US07169925B2
Step F8: 6-Chloro-1-diethylcarbamoylmethyl-3-(pyridin-4-ylamino)-1H-indole-2-carboxylic acid ethyl ester
Under nitrogen, stir and cool to 0° C. a mixture of ethyl 6-chloro-3-(4-pyridinylamino)indole-2-carboxylate (0.50 g, 1.58 mmol) in dimethylformamide (5 mL). Add a 1M solution of potassium tert-butoxide in tetrahydrofuran (1.7 mL, 1.7 mmol) over a 2 min period, and stir for 10 min. Add 2-chlor-N,N-diethylacetamide (0.22 mL, 1.6 mmol) in one portion and stir at ambient temperature overnight. Quench the reaction into water (35 mL), and extract the aqueous mixture with ethyl acetate (2×20 mL). Combine the extracts, wash with water (25 mL), brine (25 mL) and dry over MgSO4. Concentrate under vacuum, and chromatograph the residue on a Redisep silica gel cartridge (10 g) eluting with 5% methanol/dichloromethane to 20% methanol/dichloromethane. Combine all homogenous fractions and concentrate to obtain a solid. Recrystallize the solid from ethyl acetate and obtain 0.1 g of the title compound as a white solid: MS 429(M+H), m.p. 212–214° C.

reactant | ethyl 6-chloro-3-(4-pyridinylamino)indole-2-carboxylate | 1.58 mmol, 0.50 g | ClC1=CC=C2C(=C(NC2=C1)C(=O)OCC)NC1=CC=NC=C1 | C16H14ClN3O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 1.7 mmol, 1.7 mL | O1CCCC1 | C4H8O
reactant | 2-chlor-N,N-diethylacetamide | 1.6 mmol, 0.22 mL | ClCC(=O)N(CC)CC | C6H12ClNO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-Chloro-1-diethylcarbamoylmethyl-3-(pyridin-4-ylamino)-1H-indole-2-carboxylic acid ethyl ester | 0.1 g | C(C)OC(=O)C=1N(C2=CC(=CC=C2C1NC1=CC=NC=C1)Cl)CC(N(CC)CC)=O | C22H25ClN4O3
